US09303012B2
b) (6-Chloro-5-cyclopropylmethoxy-pyridin-2-yl)-(2,2-dimethyl-pyrrolidin-1-yl)-methanone
The mixture of 6-cyclopropylmethoxy-5-trifluoromethoxy-pyridine-2-carboxylic acid and 6-chloro-5-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 47 a, 50 mg, 180 μmol) was dissolved in DMF (2 mL). TBTU (63.7 mg, 198 μmol), DIEA (154 μl, 902 μmol) and 2,2-dimethylpyrrolidine (CAN 35018-15-6, 24 μl, 198 μmol) were added and the reaction mixture was stirred at room temperature for 16 hours. Ethyl acetate (3 mL) and 1 N sodium hydroxide solution (2 mL) were added; the mixture was dried by passage through ChemElut® and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, ethyl acetate/n-heptane gradient) to give the title compound (17 mg, 31%) as off-white wax; LC-MS (UV peak area, ESI) 97%, 309.1367 [MH+].

reactant | 6-cyclopropylmethoxy-5-trifluoromethoxy-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)OC(F)(F)F | C11H10F3NO4
reactant | 6-chloro-5-cyclopropylmethoxy-pyridine-2-carboxylic acid | ClC1=C(C=CC(=N1)C(=O)O)OCC1CC1 | C10H10ClNO3
reactant | TBTU | 198 μmol, 63.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 902 μmol, 154 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2-dimethylpyrrolidine | 198 μmol, 24 μl | CC1(NCCC1)C | C6H13N
reactant | sodium hydroxide | 1 N, 2 mL | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | (6-Chloro-5-cyclopropylmethoxy-pyridin-2-yl)-(2,2-dimethyl-pyrrolidin-1-yl)-methanone | 17 mg, 31% | ClC1=C(C=CC(=N1)C(=O)N1C(CCC1)(C)C)OCC1CC1 | C16H21ClN2O2
